

.SUBCKT memristor 1 2 w params:

*Parameters:
*State variable:
.ic V(w) = .35
.param wmax=1 wmin=0
.param lambda=1.2e-3 v_p=3.6 v_n=3.2
.param cp={1}
*auxiliary functions to limit the range of state variable
.func sign2(var) {(sgn(var)+1)/2}
.func trunc(var1,var2) {sign2(var1)*sign2(wmax-var2)+sign2(-var1)*sign2(var2-wmin)}

* Param PF:
.param B=8.1e-8 c=8.6e5 s=.14 eta=28.1 z=7.7
*auxiliary functions to compute PF
.func PF(eta, z, s, c, B, V) {.5*exp(-eta+z*sqrt(V))*(1+(s/c)*exp(eta-z*sqrt(V))) *(sqrt(1+( 4*s*(c-1)*exp(eta-z*sqrt(V)))/(c*pow(1+(s/c)*exp(eta-z*sqrt(V)),2)))-1)*B}

* Param Schottky:
*alpha is prefactor for Schottky barrier
*beta is exponent for Schottky barrier
.param A=3.3e-12 gamma=2.4
.func Schottky(alpha, beta, V) {alpha*(exp(beta*sqrt(V))-1)}

Cpvar w 0 {cp}
*rate equation considering the diffusion effect
Gx 0 w value={-trunc(-V(1,2), cp*V(w))*lambda*(exp(V(1,2)/v_p) - exp(-V(1,2)/v_n))}

***************************************************************************
*Output:
Gw 1 2 value={if(cp*V(1,2)>=0, (1-cp*V(w))*Schottky(A, gamma, V(1,2)) + (cp*V(w))*V(1,2)*PF(eta, z, s, c, B, V(1,2)), -((1-cp*V(w))*abs(V(1,2))*PF(eta, z, s, c, B, abs(V(1,2))) + (cp*V(w))*Schottky(A, gamma, abs(V(1,2))) ))}

.ENDS memristor

*+ cp*V(w)*V(1,2)*PF(eta, z, s, c, B, V(1,2))
*-((1-cp*V(s))*abs(V(1,2))*PF(eta, z, s, c, B, abs(V(1,2))) + (cp*V(s))*Schottky(A, gamma, abs(V(1,2))) ))


*+ wmax=1 wmin=0


*.param pf=.5*exp(-eta+z*sqrt(V(1,2))) * ( 1+(s/c)*exp( eta-z*sqrt(V(1,2)) ) )*(sqrt( 1+( 4*s*(c-1)*exp(eta-z*sqrt(V(1,2))) )/(c*pow(1+(s/c)*exp(eta-z*sqrt(V(1,2))),2)) )-1) * B

*Gw 1 2 value={(1-cp*V(s))*alpha*(1-exp(-beta*sqrt(V(1,2)))) + (cp*V(s))*V(1,2)*.5*exp(-eta+z*sqrt(V(1,2))) * ( 1+(s/c)*exp( eta-z*sqrt(V(1,2)) ) )*(sqrt( 1+( 4*s*(c-1)*exp(eta-z*sqrt(V(1,2))) )/(c*pow(1+(s/c)*exp(eta-z*sqrt(V(1,2))),2)) )-1) * B}


*Gx 0 s value={trunc(V(1,2),cp*V(s))*lambda*(exp(eta1*V(1,2)) - exp(-eta2*V(1,2)))-cp*V(s)/tau}
*rate equation without the diffusion effect
*Gx 0 s value={-trunc(V(1,2), cp*V(s))*lambda*(exp(V(1,2)/v_p) - exp(-V(1,2)/v_n))}

*Gw 1 2 value={if(cp*V(s)>=0, (1-cp*V(s))*Schottky(A, gamma, V(1,2)) + (cp*V(s))*PF(eta, z, s, c, B, V(1,2)), (1-cp*V(s))*PF(eta, z, s, c, B, abs(V(1,2))) + (cp*V(s))*Schottky(A, gamma, abs(V(1,2))) )}

*Gw 1 2 value={(1-cp*V(s))*Schottky(A, gamma, V(1,2)) }
*Gw 1 2 value={ (cp*V(s))*V(1,2)*PF(eta, z, s, c, B, V(1,2))}
*Gw 1 2 value={ V(1,2)*PF(eta, z, s, c, B, V(1,2))}
*Gw 1 2 value={Schottky(A, gamma, V(1,2)) }

*Gw 1 2 value={ (cp*V(s))*V(1,2)*PF(eta, z, s, c, B, V(1,2)) + (1-cp*V(s))*Schottky(A, gamma, V(1,2))}

