* Simulation of ZrAu model

*Pulse          V1 V2 Tdelay Trise Tfall Ton Period Ncycles)
V1 N001 0 PULSE(-20 20 0 17.5 17.5 0 0 10)
*V1 N001 0 PULSE(0 20 0 8.6 8.6 0 0 10)

XX1 N001 0 w memristor
*D1 N001 0 1N4148
*R1 Vout 0 1k
*D2 Vout N002 1N4148

.lib /Users/dav/Documents/LTspice/ZrOxAu/mem_models/ZrAu_memristor_test.net

.tran 0 35
.backanno

*.plot .tran V(n001) Ix(x1:2)

.end
